US07342032B2
Part C: To a solution of 2-(4-bromophenyl)-1-(2,4-dichlorophenyl)ethanone (5.00 gram, 15 mmol) in benzene (50 mL) is dropwise added bromine (0.75 mL, 15 mmol) and the resulting solution is stirred for 4 hours at room temperature and concentrated in vacuo. Dichloromethane is added and the resulting solution is washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give 2-bromo-2-(4-bromophenyl)-1-(2,4-dichlorophenyl)ethanone as an oil (5.96 gram, 94% yield).

reactant | 2-(4-bromophenyl)-1-(2,4-dichlorophenyl)ethanone | 15 mmol, 5.00 gram | BrC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9BrCl2O
reactant | bromine | 15 mmol, 0.75 mL | BrBr | Br2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-bromo-2-(4-bromophenyl)-1-(2,4-dichlorophenyl)ethanone | 5.96 gram, 94% yield | BrC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Br | C14H8Br2Cl2O
